US08252797B2
8-{1-[3-(3-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dimethyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (0.100 g, 0.19 mmol) in EtOH (5 mL) was treated with 2N HCl (1.1 mL) and heated at 80° C. for 2 hrs. The reaction mixture was concentrated in vacuo, and the residue was triturated with diethyl ether to afford 8-{1-[3-(3-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dimethyl-3,7-dihydro-purine-2,6-dione in (0.040 mg, 54%) as a white solid.

reactant | 8-{1-[3-(3-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dimethyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 0.19 mmol, 0.100 g | FC=1C=C(C=CC1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)C)=O)C | C25H29FN6O3Si
reactant | HCl | 2N, 1.1 mL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | 8-{1-[3-(3-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dimethyl-3,7-dihydro-purine-2,6-dione | FC=1C=C(C=CC1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1)=O)C)=O)C | C19H15FN6O2
